US07307075B2
4-(3-Chloropropyl)-6-fluoro-4H-benzo[1,4]oxazin-3-one (8173MF55b)
6-Fluoro-4H-benzo[1,4]oxazin-3-one (8173MF55b) (0.090 g, 0.54 mmol), Cs2CO3 (0.263 g, 0.81 mmol) and 3-chloro-1-iodopropane (0.121 g, 0.59 mmol) were mixed according to GP5. CC (SiO2; Heptane/EtOAc 10:1-5) gave the title compound (8173MF55b) (0.102 g, 78%). 1HNMR(CDCl3) δ 6.95-6.91 (m, 1H), 6.82-6.78 (m, 11H), 6.72-6.67 (m, 1H), 4.57 (s, 1H), 4.05 (t, J=7.2 Hz, 2H), 3.62 (t, J=6.2 Hz, 2H), 2.19-2.11 (m, 2H); 13CNMR(CDCl3) δ 164.6, 158.6 (d, J=240.7 Hz), 141.5 (d, J=2.3 Hz), 129.6 (d, J=10.5 Hz), 118.0 (d, J=9.3 Hz), 110.0 (d, J=23.1 Hz), 102.7 (d, J=28.8 Hz), 67.8, 42.3, 39.3, 30.0.

reactant | 6-Fluoro-4H-benzo[1,4]oxazin-3-one | 0.54 mmol, 0.090 g | FC=1C=CC2=C(NC(CO2)=O)C1 | C8H6FNO2
reactant | Cs2CO3 | 0.81 mmol, 0.263 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 0.59 mmol, 0.121 g | ClCCCI | C3H6ClI
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-(3-Chloropropyl)-6-fluoro-4H-benzo[1,4]oxazin-3-one | 0.102 g, 78% | ClCCCN1C(COC2=C1C=C(C=C2)F)=O | C11H11ClFNO2
